US07414076B2
Preparation of 3-(N-benzhydrylcarbamyl)amino-1-propanesulfonic acid (Compound AF)
The 3-amino-1-propanesulfonic acid (1.0 g, 7.2 mmol) was dissolved in 3N NaOH (370 mg, 9.4 mmol in 3 mL of water). After the solution was cooled to 0° C., diphenylmethyl isocyanate (1.4 mL, 7.2 mmol) was added. The reaction mixture was allowed to warm up to room temperature, stirred for 8 h (r.t.), and followed by addition of 3N NaOH (3 mL). The reaction mixture was stirred for 18 h. The pH of the reaction mixture was brought to 3 with 5N HCl. The solvent was evaporated under reduced pressure. EtOH (15 mL) was added and the mixture was stirred at reflux for 30 sec. The hot mixture was filtered. The filtrate was evaporated to dryness. This process was repeated 2 more times. The final product was dried in vacuo, affording compound AF, 837 mg (34%).

reactant | 3-amino-1-propanesulfonic acid | 7.2 mmol, 1.0 g | NCCCS(=O)(=O)O | C3H9NO3S
reactant | NaOH | 9.4 mmol, 3N, 3 mL, 370 mg | [OH-].[Na+]
reactant | diphenylmethyl isocyanate | 7.2 mmol, 1.4 mL | C1(=CC=CC=C1)C(C1=CC=CC=C1)N=C=O | C14H11NO
reactant | NaOH | 3N, 3 mL | [OH-].[Na+]
reactant | HCl | 5N | Cl | ClH
product | 3-(N-benzhydrylcarbamyl)amino-1-propanesulfonic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(=O)NCCCS(=O)(=O)O | C17H20N2O4S
